US07750003B2
Phenyl (4-{4-[(isopropylsulfonyl)methyl]-6-morpholin-4-ylpyrimidin-2-yl}phenyl)carbamate
(4-{4-[(Isopropylsulfonyl)methyl]-6-morpholin-4-ylpyrimidin-2-yl}phenyl)amine (1.5 g, 3.98 mmol) was dissolved in dioxane (10 mL). Sodium bicarbonate (503 mg, 5.98 mmol) was added, followed by phenyl chloroformate (0.502 mL, 3.98 mmol) and the reaction stirred at room temperature for 2 hours. The solvent was removed in vacuo, and the resultant oil partitioned between 10 mL DCM and 10 mL water. The organic phase was dried over magnesium sulphate, filtered and concentrated in vacuo. The cream solid obtained was chromatographed on silica, eluting with 0-50% ethyl acetate in DCM, to give the desired material as a white solid (1.5 g).

reactant | (4-{4-[(Isopropylsulfonyl)methyl]-6-morpholin-4-ylpyrimidin-2-yl}phenyl)amine | 3.98 mmol, 1.5 g | C(C)(C)S(=O)(=O)CC1=NC(=NC(=C1)N1CCOCC1)C1=CC=C(C=C1)N | C18H24N4O3S
reactant | Sodium bicarbonate | 5.98 mmol, 503 mg | C([O-])(O)=O.[Na+]
reactant | phenyl chloroformate | 3.98 mmol, 0.502 mL | ClC(=O)OC1=CC=CC=C1 | C7H5ClO2
solvent | dioxane | 10 mL | O1CCOCC1 | C4H8O2
product | Phenyl (4-{4-[(isopropylsulfonyl)methyl]-6-morpholin-4-ylpyrimidin-2-yl}phenyl)carbamate | 1.5 g | C(C)(C)S(=O)(=O)CC1=NC(=NC(=C1)N1CCOCC1)C1=CC=C(C=C1)NC(OC1=CC=CC=C1)=O | C25H28N4O5S
